US06777417B2
3-[3-(4-Methyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde (87 mg, 0.3 mmol) was condensed with 5-methylaminosulfonyloxindole (68 mg, 0.3 mmol) following the same procedure used in Example 1, step 5 above. No solid precipitated out. The reaction solution was rotary evaporated and purified by flash chromatography and eluting with (dichloromethane: methanol 13/1, 10/1, 8/1) to give (70 mg, 47% yield) of 3-[1-{3-[3-(4-methyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide.

reactant | 3-[3-(4-Methyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indole-2-carbaldehyde | 0.3 mmol, 87 mg | CN1CCN(CC1)CCCC1=C(NC=2CCCCC12)C=O | C17H27N3O
reactant | 5-methylaminosulfonyloxindole | 0.3 mmol, 68 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
product | 3-[1-{3-[3-(4-methyl-piperazin-1-yl)-propyl]-4,5,6,7-tetrahydro-1H-indol-2-yl}-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-1H-indole-5-sulfonic acid methylamide | 70 mg, 47% yield | CNS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CCN(CC1)C | C26H35N5O3S
